US07531545B2
Step F:4-[[4-(2-Amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-(2-benzyloxy-ethyl)-amino]-cis-cyclohexanecarboxylic acid benzyl ester
A solution of 4-[[4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-(2-benzyloxy-ethyl)-amino]-cis-cyclohexanecarboxylic acid benzyl ester (0.5 g, 0.7 mmol) and BrCN (3M in CH2Cl2, 0.25 mL) in EtOH (20 mL) was stirred at room temperature overnight. The EtOH was evaporated. The resulting oil was stirred in diethyl ether (50 mL) for 30 min. 4-[[4-(2-Amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-(2-benzyloxy-ethyl)-amino]-cis-cyclohexanecarboxylic acid benzyl ester was collected as a solid as its corresponding HBr salt.

reactant | 4-[[4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-(2-benzyloxy-ethyl)-amino]-cis-cyclohexanecarboxylic acid benzyl ester | 0.7 mmol, 0.5 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)N(CCOCC1=CC=CC=C1)C(CC[C@@H](C1CCOCC1)NCC1=CC(=NC=C1N)OC1=CC=CC=C1)=O | C44H54N4O6
reactant | BrCN | 3M, 0.25 mL | BrC#N | CBrN
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-[[4-(2-Amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-(2-benzyloxy-ethyl)-amino]-cis-cyclohexanecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)N(CCOCC1=CC=CC=C1)C(CC[C@@H](C1CCOCC1)N1C(=NC2=C(C1)C=C(N=C2)OC2=CC=CC=C2)N)=O | C45H53N5O6
